US07163937B2
A solution of [(1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(hydroxyethyl)-cyclohexyl]-carbamic acid benzyl ester (0.42 g, 1.07 mmol) in DMF (4 mL) was charged with iodomethane (20 mL) and Ag2O (1.24 g, 5.35 mmol) and stirred at RT for 14 h. The mixture was filtered and the filtrate was diluted with sat. NaHCO3 and minimum EtOAc. The mixture was separated (organic on bottom). The aqueous was extracted with EtOAc, and the combined organic extracts were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography to afford [(1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(methoxyethyl)-cyclohexyl]-carbamic acid benzyl ester (0.255 g). MS found: (M+H)+=429.2.

reactant | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(hydroxyethyl)-cyclohexyl]-carbamic acid benzyl ester | 1.07 mmol, 0.42 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CCO)=O | C21H32N2O5
reactant | iodomethane | 20 mL | IC | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(methoxyethyl)-cyclohexyl]-carbamic acid benzyl ester | 0.255 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CCOC)=O | C22H34N2O5
